2132-01-20 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -additional history obtained from family:
   on Thursday [**1-17**] around 3 pm, Mr [**Known lastname 13695**] [**Last Name (Titles) 13696**] [**1-24**] of a liter bottle of
   vodka;
   No empty medication bottles were found, no precipitant or obvious
   trigger per friend; does take ativan at home, unclear how many he took
   if he took any
   Became unresponsive starting the morning of [**1-18**] He was not responsive
   to her commands and she let him "sleep it off."  -Yesterday has
   intermittent periods of able to wiggle toes on command, squeez finger,
   open and close eyes.
   -repeat CK yesterdayimproved 6500, troponin, repeat HCT was 31.8 from
   35 (likely secondary to hydration, near baseline, but we should
   follow)
   -Continued IV hydration at 200 cc/hr (is now +7 L balance)
   -In evening, was increasingly somnolent with abdominal breathing;
   difficult to arouse, normal O2 sats, RR 25-30.  Got ABG which was
   pretty unremarkable: 7.43 46 152 on 2L O2.
   -lots of brownish-yellow secretions overnight requiring repeated
   suctioning
   Allergies:
   Nsaids
   History of [**Last Name (un) 3426**]
   Last dose of Antibiotics:
   Vancomycin - [**2132-1-19**] 08:02 PM
   Levofloxacin - [**2132-1-19**] 10:00 PM
   Metronidazole - [**2132-1-20**] 06:06 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-1-19**] 10:22 AM
   Heparin Sodium (Prophylaxis) - [**2132-1-19**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-20**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**33**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 96 (93 - 116) bpm
   BP: 135/70(88) {119/61(78) - 145/87(101)} mmHg
   RR: 19 (18 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84 kg (admission): 84 kg
             Total In:
                                                                  8,023 mL
                                                                    288 mL
   PO:
             TF:
   IVF:
                                                                  5,023 mL
                                                                    288 mL
   Blood products:
   Total out:
                                                                  1,085 mL
                                                                    485 mL
   Urine:
                                                                    660 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,938 mL
                                                                   -197 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.43/46/152/26/5
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   176 K/uL
   10.8 g/dL
   121 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.8 mEq/L
   13 mg/dL
   110 mEq/L
   145 mEq/L
   32.2 %
   8.5 K/uL
        [image002.jpg]
                             [**2132-1-19**]  06:00 AM
                             [**2132-1-19**]  06:14 AM
                             [**2132-1-19**]  03:29 PM
                             [**2132-1-19**]  08:15 PM
                             [**2132-1-20**]  04:20 AM
   WBC
   11.5
   9.1
   8.5
   Hct
   35.8
   31.6
   34
   32.2
   Plt
   243
   196
   176
   Cr
   0.6
   0.7
   0.5
   TropT
   <0.01
   TCO2
   31
   32
   Glucose
   123
   124
   121
   Other labs: PT / PTT / INR:12.2/21.8/1.0, CK / CKMB /
   Troponin-T:6530/20/<0.01, ALT / AST:95/219, Alk Phos / T Bili:51/0.6,
   Amylase / Lipase:/13, Differential-Neuts:78.6 %, Lymph:15.2 %, Mono:6.1
   %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, LDH:383 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Imaging: [**1-18**] -
   CXR: IMPRESSION: Right upper and lower lung consolidation, may reflect
   pneumonia
   and/or aspiration.
   Microbiology: Bcs pending
   Urinary legionella Ag negative
   Assessment and Plan
   Assessment and Plan
   58 yo M with h/o ETOH abuse, prostate CA, gastrectomy presents after
   drinking binge and being down for 24 hours from home with somnolence,
   found to have a RLL aspiration pneumonia, lactic acidosis, and
   rhabdomyolysis.
   .
   #  Altered mental status:  Continues to be altered but is arousable.
   Differential includes alcohol and benzodiazepine overdose, although
   EtOH was negative on admission with +benzos.  Unclear how many benzos
   he took.  Other possibilities include non-convulsive seizures in
   setting of alcohol withdrawal, however this is less likely as he is
   arousable and can follow some commands.  Underlying infection is also a
   possibility; meningitis R/O given normal CSF; ROS is significant for
   productive cough with brownish-green sputum.  Is afebrile with no
   leukocytosis.
   -Obtain neuro consultation given prolonged mental status change with ?
   EEG monitoring to evaluate for non-convulsive seizures and ? if any
   other imaging is indicated
   -Obtain CXR this AM and follow up read
   -Follow up blood cultures from [**1-18**]
   -Follow up sputum gram stain and culture from this AM
   -Continue thiamine, folate, MVI
   .
   # Aspiration Pneumonia - History of recent ETOH binge. Infiltrate on
   CXR/CT ab consistent with aspiration event.
   - cover with Vanc/Levaquin/flagyl
   - f/u sputum cultures
   - f/u blood cultures
   -continued suctioning for secretions
   .
   # Rhabdomyolysis - Per ED report, was lying in same spot for 24 hours.
   Has pressure sores on right axilla/hip supporting this.
   -CK trending down from 10,000 to 6000
   -f/u CK from this AM: as long as CK continuing to trend down, would
   hold off on further aggressive IV hydration given +7 L fluid balance at
   this point
   -can start maintenance fluids as not taking POs
   -follow UOP
   .
   # ETOH Abuse - received vitamins in ED
   - thiamine, folate, MVI
   - trend LFTs
   - CIWA for now, unclear exactly when last drink was (? 36 hours prior
   to arrival on floor)
   -social work consult today
   .
   # Right Puborectalis Hematoma
   - trend HCT, active type and screen, follow coags: is stable, fell from
   35 -> 31, but stable between 31-32 on repeated checks, recent fall
   likely dilutional
   -difficult to clinically assess hematoma: would continue [**Hospital1 7**] HCT checks
   for now; if < 28 would rescan to evaluate since the hematoma is hard to
   follow clinically
   -f/u surgery team recs
   .
   # Anemia - Baseline HCT 33-35, appeared hemoconcentrated on
   presentation. MCV low. Iron studies from [**9-30**] with low TIBC, low iron,
   normal ferritin c/w anemia of chronic inflammation.
   - trend as above given hematoma
   .
   # Hypertension - Normotensive since admit
   - hold home po regimen, resume once mental status improves to take po
   .
   FEN: IVF for rhabdo, replete electrolytes, strict npo until MS improves
   .
   Prophylaxis: Subutaneous heparin
   .
   Access: peripherals x2
   .
   Code:  Full
   .
   Communication: Patient - HCP in [**Name (NI) 2040**]
   .
   Disposition: pending resolution of mental status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-1-19**] 05:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with Dr.
   [**Last Name (STitle) 10958**]
s note above, including the assessment and plan. I would
   emphasize and add the following points:
   - Additional history obtained
 does take ativan but unclear how much
   he took, no empty bottles found.  Intermittent periods of following
   commands, last night increasingly somnolent
 only withdrawing to
   pain.  ABG PCO2 with 46.
   - Hct dropped to 31, then repeat stable at 32.
   - Frequent brownish secretions.  Responds to simple commands, lifting
   Tm99.5 P95-115.  BP119-140.  RR20-35.  98% on 2L NC. I/O +7L.
   Very somnolent, unintelligible speech.  Limited exam.  Following some
   commands, able to lift legs off bed and moves all 4
s withdrawing to
   pain, though noted to move R spontaneous less than L.  Normal tone
   throughout, neck supple.  Toes downgoing, few beats clonus in LE.
   PERRL.  Responsive to commands intermittently, breath sounds decreased
   b/l.  Abd soft +BS NT.  No edema.  R axilla blistering area appears
   stable to improved; R hip area appears improved.
   WBC 8.5, stable.
   ALT/AST 95/219.  Na 145, Cl 110 Bicarb 26 AG 9
   CK 6530  Lactate 1.2
   CXR low lung vol no acute infiltrate.
   Meds include vanc / flagyl / levoflox, thiamine.
   Sputum gram stain 3+ GPC polys.
   58 y/o with prostate cancer here, prior Hep C, EtOH abuse, here with
   persistently altered mental status in setting of EtOH binge (etoh level
   on admit of 0), + benzos on tox (has ativan at home).
   Overall picture still confusing, gradual improvement c/w overdose with
   tox +benzos but history that obtained does not suggest large benzo
   overdose, and mental status waxing / [**Doctor Last Name 533**].  In addition, still
   concern for initial seizure activity (so possible still having
   subclinical sz, though no activity witnessed), and also with ?decreased
   mvmt RUE and possible plexus injury from being down.  Agree with plan
   to check ammonia level, neuro consult for persistent delirium, seizure
   ?EEG, ?brachial plexus injury, continue antibiotics for suspected
   aspiration pna while awaiting sputum cx, resp care including
   sunctioning.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2132-1-20**] 14:02 ------

2132-01-21 10:53:00 Physician Attending Progress Note
Chief Complaint: altered MS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   More alert
   24 Hour Events:
 BLOOD CULTURED - At [**2132-1-20**] 04:53 PM
 URINE CULTURE - At [**2132-1-20**] 04:53 PM
 ULTRASOUND - At [**2132-1-20**] 10:00 PM
   right arm and shoulder
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Nsaids
   History of [**Last Name (un) 3426**]
   Last dose of Antibiotics:
   Metronidazole - [**2132-1-20**] 06:06 AM
   Levofloxacin - [**2132-1-20**] 10:00 PM
   Vancomycin - [**2132-1-21**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-1-20**] 10:00 PM
   Pantoprazole (Protonix) - [**2132-1-21**] 09:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: [**11-24**] Minimal
   Flowsheet Data as of  [**2132-1-21**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**33**] AM
   Tmax: 38.3
C (101
   Tcurrent: 36.8
C (98.2
   HR: 94 (81 - 106) bpm
   BP: 124/65(80) {121/65(80) - 150/89(99)} mmHg
   RR: 18 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84 kg (admission): 84 kg
             Total In:
                                                                  2,126 mL
                                                                    500 mL
   PO:
             TF:
   IVF:
                                                                  2,126 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                  1,220 mL
   Urine:
                                                                  1,560 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    566 mL
                                                                   -720 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   160 K/uL
   105 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.5 mEq/L
   11 mg/dL
   106 mEq/L
   141 mEq/L
   28.6 %
   5.8 K/uL
        [image002.jpg]
                             [**2132-1-19**]  06:00 AM
                             [**2132-1-19**]  06:14 AM
                             [**2132-1-19**]  03:29 PM
                             [**2132-1-19**]  08:15 PM
                             [**2132-1-20**]  04:20 AM
                             [**2132-1-20**]  04:42 PM
                             [**2132-1-21**]  02:04 AM
   WBC
   11.5
   9.1
   8.5
   5.8
   Hct
   35.8
   31.6
   34
   32.2
   30.0
   28.6
   Plt
   243
   196
   176
   160
   Cr
   0.6
   0.7
   0.5
   0.5
   TropT
   <0.01
   TCO2
   31
   32
   Glucose
   123
   124
   121
   105
   Other labs: PT / PTT / INR:12.4/23.0/1.0, CK / CKMB /
   Troponin-T:5310/20/<0.01, ALT / AST:96/228, Alk Phos / T Bili:49/0.6,
   Amylase / Lipase:/13, Differential-Neuts:78.6 %, Lymph:15.2 %, Mono:6.1
   %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, LDH:413 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   His mental status seems slowly to be improving but still signif
   delerious. We still have no good explanation for what happened.  Thigh
   hematoma suggests some trauma.  Along with RUE edema apparently c/w
   pressure injury. Plan is for EEG, MRI today.  We are continuing Vanco
   with ? cellulitis in UE and GPC in sputum but so far sputum cx is no
   growth.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-1-19**] 05:50 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2132-01-22 07:48:00 Physician Resident Progress Note
Chief Complaint: somnolence
   24 Hour Events:
   - ortho recs: remove all IVs from the extremity, elevate, continue to
   monitor blisters/pain level/firmness of compartments
   - neuro recs: CT spine, MRI head
   - eeg was terminated after several hours, no read yet
   - mri head, mra neck & c-spine complete, no read yet
   - sputum cx: coag + staph
   - switched to po meds
   - stopped levo, continued vanc
   Allergies:
   Nsaids
   History of [**Last Name (un) 3426**]
   Last dose of Antibiotics:
   Metronidazole - [**2132-1-20**] 06:06 AM
   Levofloxacin - [**2132-1-20**] 10:00 PM
   Vancomycin - [**2132-1-21**] 09:38 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-1-21**] 09:05 AM
   Heparin Sodium (Prophylaxis) - [**2132-1-22**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies visual changes, SOB, CP, abd pain, N/V/D, leg
   pain, arm pain.
   Flowsheet Data as of  [**2132-1-22**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**33**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36
C (96.8
   HR: 96 (83 - 111) bpm
   BP: 123/75(86) {115/64(80) - 151/90(101)} mmHg
   RR: 29 (15 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84 kg (admission): 84 kg
             Total In:
                                                                  1,892 mL
                                                                    318 mL
   PO:
                                                                    560 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,332 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  2,325 mL
                                                                  1,185 mL
   Urine:
                                                                  2,325 mL
                                                                  1,185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -433 mL
                                                                   -867 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, there is thrush present over
   the tongue
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), RRR no MRG
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, NT, ND, no r/g.
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent.  Able to raise R arm off bed less than one cm.
   Sensation in bil U&L ext normal.
   Skin:  1-2 cm flesh colered bullae on upper R ext and over R posterior
   hip.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, and time., Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   201 K/uL
   11.3 g/dL
   105 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.9 mEq/L
   10 mg/dL
   104 mEq/L
   138 mEq/L
   32.1 %
   5.8 K/uL
        [image002.jpg]
                             [**2132-1-19**]  06:00 AM
                             [**2132-1-19**]  06:14 AM
                             [**2132-1-19**]  03:29 PM
                             [**2132-1-19**]  08:15 PM
                             [**2132-1-20**]  04:20 AM
                             [**2132-1-20**]  04:42 PM
                             [**2132-1-21**]  02:04 AM
                             [**2132-1-21**]  02:42 PM
                             [**2132-1-22**]  05:19 AM
   WBC
   11.5
   9.1
   8.5
   5.8
   6.9
   5.8
   Hct
   35.8
   31.6
   34
   32.2
   30.0
   28.6
   30.6
   32.1
   Plt
   243
   196
   176
   160
   214
   201
   Cr
   0.6
   0.7
   0.5
   0.5
   0.5
   TropT
   <0.01
   TCO2
   31
   32
   Glucose
   123
   124
   121
   105
   105
   Other labs: PT / PTT / INR:11.9/21.4/1.0, CK / CKMB /
   Troponin-T:5310/20/<0.01, ALT / AST:99/163, Alk Phos / T Bili:51/0.7,
   Amylase / Lipase:/13, Differential-Neuts:78.6 %, Lymph:15.2 %, Mono:6.1
   %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, LDH:373 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.2 mg/dL
   Imaging: Imaging: [**2132-1-21**] Radiology MRA NECK W&W/O CONTRAST
   Unread
   [**2132-1-21**] Radiology MRA BRAIN W/O CONTRAST     Unread
   [**2132-1-21**] Radiology MR HEAD W & W/O CONTRAS   Unread
   [**2132-1-21**] Radiology MR [**Name13 (STitle) **] W& W/O CONTR     Unread
   [**2132-1-21**] Neurophysiology EEG   Pending
   Microbiology: Microbiology: [**2132-1-20**] 4:44 am SPUTUM
   Site: ENDOTRACHEAL
   GRAM STAIN (Final [**2132-1-20**]):
   >25 PMNs and <10 epithelial cells/100X field.
    3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS AND
   CLUSTERS.
    2+   (1-5 per 1000X FIELD): BUDDING YEAST.
   RESPIRATORY CULTURE (Preliminary):
   STAPH AUREUS COAG +.    HEAVY GROWTH. YEAST.   MODERATE GROWTH.
   UCltx NG
   Blood Cltx Pending
   Legionelle negative
   Sputum contaminated
   Assessment and Plan
   58 yo M with h/o ETOH abuse, prostate CA, gastrectomy presents after
   drinking binge and being down for 24 hours from home with somnolence,
   found to have a RLL aspiration pneumonia, lactic acidosis, and
   rhabdomyolysis, now improving.
   .
   #  Altered mental status:  No longer altered.  Differential includes
   alcohol and benzodiazepine overdose, although EtOH was negative on
   admission with +benzos.  Patient originally denied taking any
   benzodiazepines, but today admits to taking at least three Klonopin the
   night he was found down in order to sleep; denies SI but does state he
   is depressed.  He has never taken this many before at one time.
   - EEG monitoring to evaluate for non-convulsive seizures, prelim
   negative for seizure.
   - MRI/MRA of head/neck negative for intracranial or spinal process.
   - Follow up final blood cultures, and sputum
   - Continue thiamine, folate, MVI
   - D/C foley, advance diet now that MS is improved.
   - Will ask psych to clear patient to ensure that patient is not having
   SI prior to sending to floor.
   .
   # Aspiration Pneumonia - History of recent ETOH binge. Infiltrate on
   CXR/CT ab consistent with aspiration event. Sputum culture demonstrated
   GPC
s in cluster and chains.
   - Vancomycin 1g q12H, day 3
   - f/u final sputum cultures, coag neg staph
   - f/u final blood cultures
   -continued suctioning for secretions
   .
   # Rhabdomyolysis - Per ED report, was lying in same spot for 24 hours.
   Has pressure sores on right axilla/hip supporting this.
   -CK trending down, 5310 yesterday
   -Continue maintenance fluids until patient taking significant PO
   -follow UOP
   .
   # ETOH Abuse - received vitamins in ED
   - Thiamine, folate, MVI
   - Trend LFTs, improving.
   - CIWA discontinued as no evidence of withdrawal & negative EtOH tox
   screen
   - Social work consult
   .
   # Right Arm Swelling/Erythema: Right upper extremity U/S performed [**1-20**]
   was negative for DVT and Ortho Surgery performed compartment manometry
   that was negative for compartment syndrome.  Arm appears improved
   today, less tense, sensation and pulses intact.
   - Continue to observe for changes
   - Trend Hct, stable.
   - OT for increased arm strength
   .
   # Right Puborectalis Hematoma: Hct down in the context of fluid
   repletion.
   - HCT stable at 32.1 today,  active type and screen, follow coags
   - F/u surgery team recs, if any
   .
   # Anemia - Baseline HCT 33-35, appeared hemoconcentrated on
   presentation. MCV low. Iron studies from [**9-30**] with low TIBC, low iron,
   normal ferritin c/w anemia of chronic inflammation.
   - Trend as above given hematoma, stable.
   .
   # Hypertension - Normotensive since admission
   - held home po regimen d/t mental status, since now improved will
   restart home meds.
   .
   #Thrush-
   - ?if due to immunosuppression/HIV.  Pt states his male partner has
   AIDS, and although he believes they have only had protected sex, he
   wishes to have an HIV test performed but will do this anonymously as
   outpatient.  Per his report, last test 2 years ago was negative.
   -Nystatin swish and swallow.
   ICU Care
   Nutrition: Regular diet, advancing
   Glycemic Control:  none
   Lines:
   18 Gauge - [**2132-1-19**] 05:50 AM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL Code
   Disposition:  call out once somnolence improved.

2132-01-22 11:38:00 Physician Attending Progress Note
Chief Complaint: altered MS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feeling much more clear
   24 Hour Events:
 EEG - At [**2132-1-21**] 11:41 AM
 MAGNETIC RESONANCE IMAGING - At [**2132-1-21**] 07:30 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Nsaids
   History of [**Last Name (un) 3426**]
   Last dose of Antibiotics:
   Metronidazole - [**2132-1-20**] 06:06 AM
   Levofloxacin - [**2132-1-20**] 10:00 PM
   Vancomycin - [**2132-1-21**] 09:38 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-1-22**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias, Edema of RUE
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence, Depressed
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Pain: [**11-24**] Minimal
   Pain location: RUE
   Flowsheet Data as of  [**2132-1-22**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**33**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36
C (96.8
   HR: 88 (83 - 111) bpm
   BP: 130/77(89) {115/65(82) - 151/90(101)} mmHg
   RR: 19 (15 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84 kg (admission): 84 kg
             Total In:
                                                                  1,892 mL
                                                                    714 mL
   PO:
                                                                    560 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  1,332 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  2,325 mL
                                                                  1,835 mL
   Urine:
                                                                  2,325 mL
                                                                  1,835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -433 mL
                                                                 -1,121 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand, RUE
   hematoma
   Skin:  Warm, Rash: vesicles in areas of pressure, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   201 K/uL
   105 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.9 mEq/L
   10 mg/dL
   104 mEq/L
   138 mEq/L
   32.1 %
   5.8 K/uL
        [image002.jpg]
                             [**2132-1-19**]  06:00 AM
                             [**2132-1-19**]  06:14 AM
                             [**2132-1-19**]  03:29 PM
                             [**2132-1-19**]  08:15 PM
                             [**2132-1-20**]  04:20 AM
                             [**2132-1-20**]  04:42 PM
                             [**2132-1-21**]  02:04 AM
                             [**2132-1-21**]  02:42 PM
                             [**2132-1-22**]  05:19 AM
   WBC
   11.5
   9.1
   8.5
   5.8
   6.9
   5.8
   Hct
   35.8
   31.6
   34
   32.2
   30.0
   28.6
   30.6
   32.1
   Plt
   243
   196
   176
   160
   214
   201
   Cr
   0.6
   0.7
   0.5
   0.5
   0.5
   TropT
   <0.01
   TCO2
   31
   32
   Glucose
   123
   124
   121
   105
   105
   Other labs: PT / PTT / INR:11.9/21.4/1.0, CK / CKMB /
   Troponin-T:5310/20/<0.01, ALT / AST:99/163, Alk Phos / T Bili:51/0.7,
   Amylase / Lipase:/13, Differential-Neuts:78.6 %, Lymph:15.2 %, Mono:6.1
   %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, LDH:373 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RHABDOMYOLYSIS
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Mental status has now cleared. Seems most likely this was benzo
   intoxication - unclear if this was a deliberate or inadvertant OD.
   Pressure injuries are slowly resolving.  Treating himn for thrush - he
   is asking for an HIV test - high concern for active inf.
   ICU Care
   Nutrition:
   Comments: Full
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-1-21**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes